US08957062B2
Step A: 2-(4-(benzyloxy)-2-methylphenyl)-N,N-dimethylacetamide
[4-(benzyloxy)-2-methylphenyl]acetic acid (1.1 g, 4.29 mmol) was dissolved in DMF (5 ml) and dimethylamine (6.44 ml, 12.88 mmol), DIEA (2.25 ml, 12.88 mmol), and HATU (3.26 g, 5.58 mmol) added. The mixture was stirred at RT for overnight. The residue was purified by column chromatography using a Biotage RP C18 cartridge (30 g) using a gradient eluant of 10-100% water:acetonitrile+0.05% formic acid. to afford the title compound. LC/MS (m/z): 284 (M+H)+.

reactant | [4-(benzyloxy)-2-methylphenyl]acetic acid | 4.29 mmol, 1.1 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)O)C | C16H16O3
reactant | dimethylamine | 12.88 mmol, 6.44 ml | CNC | C2H7N
reactant | DIEA | 12.88 mmol, 2.25 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 5.58 mmol, 3.26 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(4-(benzyloxy)-2-methylphenyl)-N,N-dimethylacetamide | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)N(C)C)C | C18H21NO2
